US04778622
With stirring, cooling and blanketing with nitrogen, 6.7 g of terephthalaldehyde are added in portions to a mixture of 6.2 ml of aqueous potassium hydroxide solution 50% w/v and 40 ml of methanol, such that the temperature does not exceed 22° C. The resultant solution is then treated dropwise at 10° C. over 1/2 hour with a solution of 12.7 g of p-diethylphosphonomethylbenzonitrile (99.5%) in 10 ml of methanol, whereupon the reaction product soon precipitates. After stirring overnight at 10° C., the thick suspension is neutralised with 3 ml of glacial acetic acid, diluted with 40 ml of water, and filtered with suction. The filter residue is washed repeatedly with a 3:2 mixture of methanol/water and then with water until salt-free and dried under vacuum at 80° C., affording 10.6 g of 4-cyanostilbene-4'-aldehyde as a pale yellow powder.

reactant | terephthalaldehyde | 6.7 g | C(C1=CC=C(C=O)C=C1)=O | C8H6O2
reactant | potassium hydroxide | 6.2 ml | [OH-].[K+]
reactant | p-diethylphosphonomethylbenzonitrile | 12.7 g | C(C)OP(=O)(OCC)CC1=CC=C(C#N)C=C1 | C12H16NO3P
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | 4-cyanostilbene-4'-aldehyde | 10.6 g | C(#N)C1=CC=C(C=C1)C=CC1=CC=C(C=C1)C=O | C16H11NO
